### PR TITLE
QuickChick Testing of Smart Contracts + Examples

### PR DESCRIPTION
**Pull request by mikkelmilo**

### CODE REVIEW

File: .vscode/settings.json [hunk 1]
```diff
@@ -0,0 +1,3 @@
+{
+  "editor.tabSize": 2
+}
```
Comment (jakobbotsch) [inline .vscode/settings.json:3]: This file should not be included (note that we already have .editorconfig in the root, so you should just install the VS code editorconfig plugin)

File: README.md [hunk 2]
```diff
@@ -1,18 +1,20 @@
...
-Our development works with Coq 8.11. and depends on MetaCoq 1.0~alpha2+8.11,
+Our development works with Coq 8.10. and depends on MetaCoq 1.0,
 std++ and coq-bignums. These dependencies can be installed through `opam`.
 
 Install Coq (see https://coq.inria.fr/opam-using.html for detailed instructions on how to manage
 multiple Coq installations using opam).:
 
 ```bash
-opam install coq.8.11
+opam install coq.8.10
```
Comment (jakobbotsch) [inline README.md:17]: We won't be able to take this change due to some new stuff we are working on which needs MetaCoq stuff that is only there for Coq 8.11.
Is this needed due to QuickChick? If so, I guess we will have to wait until they update QuickChick.
I will postpone reviewing the rest for now.

Comment (annenkov) [reply README.md:17]: Hmm, I thought it actullay worked fine with Coq 8.11. Maybe it's just outdated readme? @mikkelmilo ?

File: .vscode/settings.json (hunk 1 above)
Comment (mikkelmilo) [reply .vscode/settings.json:3]: Yep that's a mistake - I didn't intend to include this file.

File: README.md (hunk 2 above)
Comment (mikkelmilo) [reply README.md:17]: Yeah it works with 8.11. I guess it auto merged this file and I didn't notice it.

**Comment by spitters** [comment]
THere should be an updated version on quickcheck. If not, report it, or as
on zullip.

File: README.md [hunk 3]
```diff
@@ -1,12 +1,14 @@
 # ConCert
 
-A framework for smart contract verification in Coq
+Fork of the ConCert framework - A framework for smart contract verification in Coq.
+
+The work on this fork is aimed at building infrastructure for random property testing of the Smart Contracts (and the execution environment) using QuickChick.
```
Comment (jakobbotsch) [inline README.md:5]: Looks like this section needs to be updated. You can describe this component in the "Structure of the project" part below. Also it would be nice to add a more detailed summary in the execution/README.md file of the some of the testing parts.

File: embedding/examples/AcornExamples.v [hunk 4]
```diff
@@ -169,11 +169,11 @@ Definition Functions := [("singleton", eTyLam "A" (eLambda "x" (tyRel 0) (eApp (
 
   Run TemplateProgram
       (translateDefs gEnv Functions).
-
+(* 
   Print List.
   Print foldr.
   Print zipWith.
-
+ *)
```
Comment (jakobbotsch) [inline embedding/examples/AcornExamples.v:176]: If @annenkov does not use these anymore then I think we should just delete them instead of commenting it.

File: embedding/examples/AcornExamples.v [hunk 5]
```diff
@@ -368,7 +368,7 @@ Module Recursion.
 
   Run TemplateProgram (translateDefs (StdLib.Σ ++ R_data)%list R_functions).
 
-  Print add.
+(*   Print add. *)
```
Comment (jakobbotsch) [inline embedding/examples/AcornExamples.v:371]: Ditto

File: embedding/examples/Demo.v [hunk 6]
```diff
@@ -27,7 +27,7 @@ Import BasicAst.
 
 (* Quote *)
 Quote Definition id_nat_syn := (fun x : nat => x).
-Print id_nat_syn.
+(* Print id_nat_syn. *)
```
Comment (jakobbotsch) [inline embedding/examples/Demo.v:30]: Ditto. I will stop commenting on these

File: execution/examples/BAT.v [hunk 7]
```diff
@@ -0,0 +1,236 @@
...
+Context {BaseTypes : ChainBase}.
+Set Primitive Projections.
+Set Nonrecursive Elimination Schemes.
+
+Definition TokenValue := EIP20Token.TokenValue.
+Open Scope N_scope.
+
+Inductive Msg := 
+	(* Message types from the EIP20/ERC20 Standard Token: *)
+	| tokenMsg : EIP20Token.Msg -> Msg
```
Comment (jakobbotsch) [inline execution/examples/BAT.v:30]: The indentation seems to be messed up (here it uses tabs). Can you change it to use spaces consistently in all files?

File: execution/examples/BAT.v [hunk 8]
```diff
@@ -0,0 +1,236 @@
...
+
+(* Not sure if this is the most succint and "pretty" proof, but it works. *)
+Lemma receive_proper :
+  Proper (ChainEquiv ==> eq ==> eq ==> eq ==> eq) receive.
+Proof. repeat intro; solve_contract_proper.
+	destruct (_ =? _)%address; auto; 
+	destruct (negb _); auto; 
+	destruct (orb _ _); auto; 
+	simpl; rewrite H; simpl; 
+	rewrite (account_balance_eq x y); try reflexivity; apply H.
```
Comment (jakobbotsch) [inline execution/examples/BAT.v:230]: Does the rewrite with the `ChainEquiv` not do this on its own?

File: execution/examples/Congress.v [hunk 9]
```diff
@@ -18,6 +18,8 @@ Require Import ResultMonad.
 Require Import Serializable.
 From RecordUpdate Require Import RecordUpdate.
 From Coq Require Import List.
+Require Import Serializable.
+Require Import Blockchain.
```
Comment (jakobbotsch) [inline execution/examples/Congress.v:22]: Why was this added?

File: execution/examples/Congress.v [hunk 10]
```diff
@@ -281,7 +283,9 @@ Proof. repeat intro; solve_contract_proper. Qed.
 
 Definition contract : Contract Setup Msg State :=
   build_contract init init_proper receive receive_proper.
-Section Theories.
+
+
+  Section Theories.
```
Comment (jakobbotsch) [inline execution/examples/Congress.v:288]: Unnecessary change

File: execution/examples/FA2Interface.v [hunk 11]
```diff
@@ -0,0 +1,323 @@
...
+
+Instance transfer_descriptor_param_callback_serializable : Serializable (callback transfer_descriptor_param) :=
+  Derive Serializable (callback_rect transfer_descriptor_param) <(Build_callback transfer_descriptor_param)>.
+
+Global Instance set_hook_param_serializable : Serializable set_hook_param :=
+  Derive Serializable set_hook_param_rect <Build_set_hook_param>.
+
+End Serialization.
+
+End FA2Interface.
```
Comment (jakobbotsch) [inline execution/examples/FA2Interface.v:323]: There's some commented code in this file, if they're not used to highlight some missing bits then I suggest removing it.

File: execution/examples/FA2Token.v [hunk 12]
```diff
@@ -0,0 +1,531 @@
...
+  end.  
+
+Definition map_values_FMap {A B C: Type}
+                      `{countable.Countable A}
+                      `{base.EqDecision A}
+                       (f : B -> C)
+                       (m : FMap A B)
+                       : FMap A C := 
+  let l := FMap.elements m in
+  let mapped_l := List.map (fun p => (fst p, f (snd p))) l in
```
Comment (jakobbotsch) [inline execution/examples/FA2Token.v:486]: Gallina has some nicer syntax:
`let mapped_l := List.map (fun '(a, b) => (a, f b)) l in`

File: execution/examples/LocalBlockchainTests.v [hunk 13]
```diff
@@ -18,7 +18,7 @@ From Coq Require Import ZArith.
 Import ListNotations.
 
 Section LocalBlockchainTests.
-  Let AddrSize := (2^128)%N.
+  Let AddrSize := (2^8)%N.
```
Comment (jakobbotsch) [inline execution/examples/LocalBlockchainTests.v:21]: It would be nice to avoid touching this to ensure the chains work with large address spaces too.

File: execution/examples/LocalBlockchainTests.v [hunk 14]
```diff
@@ -164,7 +164,7 @@ Section LocalBlockchainTests.
   (* Balances after: *)
   Compute (account_balance chain8 congress_1).
   Compute (account_balance chain8 person_3).
-  Print Assumptions chain8.
+(*   Print Assumptions chain8. *)
```
Comment (jakobbotsch) [inline execution/examples/LocalBlockchainTests.v:167]: Uncomment

File: execution/tests/DexterTests/Dexter.v [hunk 15]
```diff
@@ -0,0 +1,218 @@
...
+    end.
+
+Lemma init_proper :
+  Proper (ChainEquiv ==> eq ==> eq ==> eq) init.
+Proof. repeat intro; solve_contract_proper.	Qed.
+
+Lemma receive_proper :
+  Proper (ChainEquiv ==> eq ==> eq ==> eq ==> eq) receive.
+Proof. repeat intro; solve_contract_proper. 
+  rewrite (account_balance_eq x y).
```
Comment (jakobbotsch) [inline execution/tests/DexterTests/Dexter.v:211]: Nit: Just rewrite with the `ChainEquiv`

File: execution/examples/BAT.v (hunk 7 above)
Comment (mikkelmilo) [reply execution/examples/BAT.v:30]: The eternal struggle; tabs or spaces... Will change everything into spaces.

File: execution/examples/FA2Interface.v (hunk 11 above)
Comment (mikkelmilo) [reply execution/examples/FA2Interface.v:323]: Will remove the comments.

File: execution/examples/FA2Token.v (hunk 12 above)
Comment (mikkelmilo) [reply execution/examples/FA2Token.v:486]: Oh my god why didn't I know of this feature earlier... This could significantly 'sugarize' a lot of my code. Will prepare a commit specifically for this change.

File: execution/examples/LocalBlockchainTests.v (hunk 13 above)
Comment (mikkelmilo) [reply execution/examples/LocalBlockchainTests.v:21]: I think this is an old artefact of some early testing that I no longer use. I should be able to revert this change.

File: execution/examples/BAT.v (hunk 8 above)
Comment (mikkelmilo) [reply execution/examples/BAT.v:230]: Do you mean the usual `repeat intro; solve_contract_proper.` tactic (which usually solves the goal entirely)? Because it couldn't solve the goal this time. I think I concluded at the time that some of the outgoing actions from the contract's `receive` caused this somehow; because if I removed them it could solve the goal. Maybe there is a neater, more robust sequence of tactics to solve this goal?
If you want to go through the proof yourself you can clone my fork.

File: execution/examples/Congress.v (hunk 9 above)
Comment (mikkelmilo) [reply execution/examples/Congress.v:22]: Seems like a mis-merge on my end from when the ResultMonad was added. Will remove it if it is not necessary.

File: execution/tests/DexterTests/Dexter.v (hunk 15 above)
Comment (mikkelmilo) [reply execution/tests/DexterTests/Dexter.v:211]: How exactly? after `repeat intro; solve_contract_proper` the context contains (among other) `H: ChainEquiv x y` but `rewrite H` fails with `Nothing to Rewrite`. I'm not very familiar with the tactics of this framework.

File: execution/examples/BAT.v (hunk 8 above)
Comment (jakobbotsch) [reply execution/examples/BAT.v:230]: There is a `Proper` instance that allows `rewrite H` where `H : ChainEquiv x y` to automatically change
`account_balance x foo` into `account_balance y foo`. Eg. this works:
```
Lemma foo x y addr :
  ChainEquiv x y -> account_balance x addr = account_balance y addr.
Proof.
  intros ->.
  reflexivity.
```
However, I cloned your fork and I can see now that it does not work here. So it seems ok to leave it as is (same as my comment below).
I think the problem is that it does not manage rewriting under the binder in this case, even though setoid rewriting (which `rewrite` calls to handle this case) should normally do that.
You can avoid the destructs if you rewrite the `current_slot x` yourself, like you're doing with the `account_balance_eq`:
```
Lemma receive_proper :
  Proper (ChainEquiv ==> eq ==> eq ==> eq ==> eq) receive.
Proof.
  repeat intro; solve_contract_proper.
  rewrite (account_balance_eq x y), (current_slot_eq x y) by assumption.
  reflexivity.
Qed.
```

File: execution/tests/DexterTests/Dexter.v (hunk 15 above)
Comment (jakobbotsch) [reply execution/tests/DexterTests/Dexter.v:211]: Yep you're right, it does not work here, unsure why.

**Comment by mikkelmilo** [comment]
New changes committed that (hopefully) address all the issues commented previously.

File: embedding/examples/Demo.v (hunk 6 above)
Comment (jakobbotsch) [reply embedding/examples/Demo.v:29]: This still seems to be present in a bunch of places.

**Comment by jakobbotsch** [comment]
Closing and reopening to trigger the new CI hopefully...
It should fail because we are lacking the QuickChick dependency, I will take care of that tomorrow.

**Comment by jakobbotsch** [comment]
Let's fix the remaining stuff later :)

**Comment by mikkelmilo** [comment]
> Let's fix the remaining stuff later :)
Does anything still need to be fixed? I believe all the commented issues have been addressed.

**Comment by jakobbotsch** [comment]
I believe there were still a bunch of left-in commented code, check eg. `embedding/examples/Demo.v`  in the "Files changed" tab

**Comment by mikkelmilo** [comment]
Why do we want them not commented out, though? In my opinion they just obfuscate the output during compilation with `make`. All of the lines I commented out were just sanity checks using either `Print` or `Compute`.

**Comment by jakobbotsch** [comment]
It is fine for me to remove them, but then they should be removed, not commented. I generally try to avoid having commented code in master as that just rots.

**Comment by mikkelmilo** [comment]
If the commented code is just some deprecated code then I agree it should be removed, but for sanity checks I think it is sensible to leave them as comments if they are accompanied by the result of the computation. It gives the reader an intuitive understanding of some functionality just by looking at the code.

Also, if the computations are expensive (such as the case of quickchick tests, or even just sampling from quickchick generators) then this obviously slows down compilation time for no good reason.

On a related note, maybe we should add a `test` target to our make file?

**Comment by jakobbotsch** [comment]
For one-off printing like what was commented it is, in my experience, exceedingly rare that I need it again so when I do I will just write it again, or use Proof General to do it without modifying the source file.

> It gives the reader an intuitive understanding of some functionality just by looking at the code.

I think for your QuickChick examples it is ok, I don't see any alternative. But in general it is already pretty hard to read Coq code without an interactive session, so I don't think there is much use in optimizing for this case. I prefer to have things checked by Coq as part of builds so that I know things aren't changing underneath me. For example:
https://github.com/jakobbotsch/ConCert/blob/48140c399c819135b9c947af81f5b6f5b779f24a/extraction/examples/ErasureTests.v#L90-L92
https://github.com/jakobbotsch/ConCert/blob/48140c399c819135b9c947af81f5b6f5b779f24a/extraction/examples/MidlangExtractTests.v#L126-L157
https://github.com/AU-COBRA/ConCert/blob/43b64a9e619c2313a73e1c390b72713665d012ed/execution/examples/BoardroomVotingTest.v#L141

> On a related note, maybe we should add a test target to our make file?

Fine with me, there are some medium sized computations in a few places (eg. the last example I linked above takes a bit of time).

**Comment by spitters** [comment]
About reading sources without an interactive session. There is a new tool
to create Coq "movies", like proviola; see also the recent discussion on
Zulip.
https://people.csail.mit.edu/cpitcla/links/2020-08-05-alectryon.pdf
